US07129232B2
To a solution of 4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (1.51 g) in sulfuric acid (7.5 ml) was added potassium nitrate (111 g) under ice-cooling. The mixture was stirred at room temperature for 17 hours. The reaction mixture was added to ice (100 g). The crystalline residue was collected by filtration and dried in vacuo to give 3-nitro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (0.63 g) as a solid.

reactant | 4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 1.51 g | C(=O)N1C=2N(CCC1)N=CC2 | C7H9N3O
reactant | potassium nitrate | 111 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
product | 3-nitro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 0.63 g | [N+](=O)([O-])C=1C=NN2C1NCCC2 | C6H8N4O2
